US06603012B2
1.62 g of carbon tetrabromide were dissolved in 25 ml of methylene chloride and treated, at −20° C., with a solution of 2.56 g of triphenylphosphine in 25 ml of methylene chloride. The mixture was stirred at 0° C. for 15 minutes. To the orange solution were added 733 mg of (RS)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanal in 4 ml of methylene chloride, at 0° C. The reaction mixture was stirred at room temperature for 4 hours. The mixture was quenched with the addition of 50 ml of water followed by 6 ml of a saturated aqueous sodium bicarbonate solution. The phases were separated and the aqueous phase was further extracted with 2 portions of 25 ml of methylene chloride. The combined organic extracts were dried over MgSO4 and concentrated in vacuo, giving a yellow solid. The residue was triturated in pentane and the solid was removed by filtration. The filtrate was concentrated in vacuo, yielding a yellow oil which was purified by flash chromatography (SiO2, hexane), giving 1.03 g of (RS)-1,1-dibromo-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-oct-1-ene, as a colorless oil.

reactant | carbon tetrabromide | 1.62 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (RS)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanal | 733 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C=O)CCCCC)C | C21H32O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (RS)-1,1-dibromo-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-oct-1-ene | 1.03 g | BrC(=CC(CCCCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)Br | C22H32Br2
